US04085226
A solution of 9.2 g (0.05 mole) of 2,6-difluorobenzoylisocyanate in 50 ml of toluene was added dropwise at 40° C to a solution of 9.8 g (0.05 mole) of 4-chloro-3-trifluoromethylaniline in 100 ml of toluene. The batch was stirred for 1 hour at 40° C. The substance which separated out was filtered off after cooling the reaction mixture to 20° C, and washed with toluene and petroleum ether. After drying, 18.0 g (95% of theory) of N-(4-chloro-3-trifluoromethylphenyl)-N'-(2,6-difluorobenzoyl)-urea of melting point 220° C were obtained.

reactant | 2,6-difluorobenzoylisocyanate | 0.05 mole, 9.2 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 4-chloro-3-trifluoromethylaniline | 0.05 mole, 9.8 g | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-chloro-3-trifluoromethylphenyl)-N'-(2,6-difluorobenzoyl)-urea | 18.0 g, 95% | ClC1=C(C=C(C=C1)NC(=O)NC(C1=C(C=CC=C1F)F)=O)C(F)(F)F | C15H8ClF5N2O2
